US07521448B2
A mixture of 1-(3-aminophenyl)-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide (1.0 eq) and 4-chlorobenzaldehyde (1.0 eq) in MeOH:HOAc (10:1 v/v, 0.017M) was stirred for 15 min at rt prior to the addition of (polystyrylmethyl)trimethylammonium cyanoborohydride (3.5-5.0 mmol/g, 2.5 eq). The reaction mixture was shaken at rt overnight in a capped vial and then filtered through a plug of cotton wool. The resin was washed with MeOH and the combined filtrate and MeOH washings were concentrated under reduced pressure and purified by silica gel chromatography eluting with 5% MeOH in DCM to yield 1-{3-[(4-chlorobenzyl)amino]phenyl}-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide. 1H-NMR (CD3OD, 400 MHz): δ 4.38 (s, 2H), 4.89 (s, 2H), 6.68 (s, 1H), 6.76 (dd, J=2.0 Hz, 7.0 Hz, 2H), 7.20-7.45 (m, 7H), 7.81 (dd, J=8.4 Hz, 1.6 Hz, 1H), 7.89 (d, J=6.0 Hz, 1H), 8.26 (d, J=1.2 Hz, 1H), 8.42 (s, 1H), 8.45 (d, J=4 Hz, 1H), 8.60 (s, 1H). MS (ES+): m/z 469 [MH+]

reactant | 1-(3-aminophenyl)-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide | 1.0 eq | NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C20H17N5O
reactant | 4-chlorobenzaldehyde | 1.0 eq | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | MeOH HOAc | 0.017M | CO.CC(=O)O
product | 1-{3-[(4-chlorobenzyl)amino]phenyl}-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | ClC1=CC=C(CNC=2C=C(C=CC2)N2C=NC3=C2C=CC(=C3)C(=O)NCC=3C=NC=CC3)C=C1 | C27H22ClN5O
